US08193199B2
N—((S)-1-(8-Chloro-2-(6-methylpyridin-2-yl)quinolin-3-yl)ethyl)-9H-purin-6-amine
To a stirred solution of (1S)-1-(8-chloro-2-(6-methylpyridin-2-yl)quinolin-3-yl)-ethanamine (146 mg, 0.49 mmol) in 1-butanol (5.4 mL, 59 mmol) was added 6-bromopurine (0.107 g, 0.54 mmol) and N,N-diisopropylethylamine (0.17 mL, 0.98 mmol) with heating (110° C.) overnight solvents were removed and the residue subjected to chromatography, gradient, 89:9:1 (DCM:MeOH:NH4OH). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.84 (1H, br. s.), 8.67 (1H, s), 8.38 (1H, br. s.), 8.03-8.10 (1H, m), 7.84-7.98 (5H, m), 7.56 (1H, t, J=7.8 Hz), 7.36 (1H, d, J=5.5 Hz), 6.03 (1H, br. s.), 2.58 (3H, br. s.), 1.66 (3H, d, J=6.3 Hz) Mass Spectrum (ESI) m/e=415.9 (M+1).

reactant | (1S)-1-(8-chloro-2-(6-methylpyridin-2-yl)quinolin-3-yl)-ethanamine | 0.49 mmol, 146 mg | ClC=1C=CC=C2C=C(C(=NC12)C1=NC(=CC=C1)C)[C@H](C)N | C17H16ClN3
reactant | 1-butanol | 59 mmol, 5.4 mL | C(CCC)O | C4H10O
reactant | 6-bromopurine | 0.54 mmol, 0.107 g | BrC1=C2NC=NC2=NC=N1 | C5H3BrN4
reactant | N,N-diisopropylethylamine | 0.98 mmol, 0.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | N—((S)-1-(8-Chloro-2-(6-methylpyridin-2-yl)quinolin-3-yl)ethyl)-9H-purin-6-amine | ClC=1C=CC=C2C=C(C(=NC12)C1=NC(=CC=C1)C)[C@H](C)NC1=C2N=CNC2=NC=N1 | C22H18ClN7
